US07132539B2
Preparation of [2-[2-ethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (40):
To a cold solution of 2-{4-[2-tert-butoxycarbonylamino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid, 36, (1.7 g, 3.0 mmol) and benzotriazole-1-yl-oxy-tris-pyrrolidinol-phosphonium hexafluorophosphate (PyBOP) (2.0 g, 3.8 mmol) in anhydrous dichloromethane (10 mL) are added 2 M methyl amine solution in THF (1.5 mL, 3.0 mmol) and triethyl amine (1.0 mL, 7.4 mmol). The reaction mixture is placed in a refrigerator overnight. EtOAc (50 mL) and water (200 mL) are added, and the organic layer is separated. The aqueous layer is extracted with EtOAc (3×100 mL). The combined organic layers are washed with brine (100 mL), dried over Na2SO4, and concentrated in vacuo. The crude product is purified over silica (EtOAc/hexane, 1:1) to afford 1.3 g (73% yield) of the desired product. 1H NMR (CDCl3, 300 MHz, δ): 7.75–7.65 (m, 3H), 7.55 (s, 1H), 7.39–7.29 (m, 2H), 7.29–7.2 (m, 1H), 7.10–7.02 (m, 2H), 6.90–6.82 (m, 2H), 6.51–6.30 (m, 1H), 5.31 (d, J=10.4 Hz, 1H), 4.85–4.15 (m, 2.5H), 3.55–3.12 (m, 3H), 3.00–2.05 (m, 10H), 1.85–1.45 (m, 10H), 0.7 (m, 3H); 13C NMR, (CDCl3, 300 MHz) δ 174.0, 172.0, 171.0, 170.0, 163.9, 160.6, 155.2, 137.4, 133.8, 132.4, 131.5, 131.4, 131.3, 131.2, 128.4, 128.0, 127.8, 126.4, 125.8, 116.0, 115.7, 115.4, 80.0, 70.9, 70.7, 60.7, 55.4, 52.1, 51.2, 51.0, 50.5, 49.8, 41.9, 40.2, 39.4, 38.0, 32.4, 28.6, 26.3, 23.3, 22.3, 21.4, 14.5, 10.8, 10.3.

reactant | 2-{4-[2-tert-butoxycarbonylamino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)N1C(CN(CC1)C(C(=O)O)CC1=CC2=CC=CC=C2C=C1)CC)CC1=CC=C(C=C1)F | C33H40FN3O5
reactant | PyBOP | 3.8 mmol, 2.0 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | methyl amine | 2 M | CN | CH5N
reactant | THF | 3.0 mmol, 1.5 mL | C1CCOC1 | C4H8O
reactant | triethyl amine | 7.4 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 200 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | [2-[2-ethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 1.3 g, 73% yield | C(C)(C)(C)OC(NC(C(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)CC)CC1=CC=C(C=C1)F)=O | C34H43FN4O4
